US08227458B2
trans-4-(6-Methyl-pyridin-2-yloxy)-cyclohexanecarboxylic acid hydrazide
A mixture of trans-4-(6-methyl-pyridin-2-yloxy)-cyclohexanecarboxylic acid methyl ester (0.62 g, 2.5 mmol) and hydrazine hydrate (0.55 ml, 11 mmol) in n-butanol (1 ml) was heated at 125° C. for 4 h. After cooling to room temperature the reaction mixture was partitioned between dichloromethane (75 ml) and water (75 ml). The aqueous layer was washed with dichloromethane/75 ml). The combined organic layers were washed with water (75 ml) and brine (75 ml), dried over anhydrous sodium sulfate and concentrated in vacuo to give the crude title compound (0.48 g, 86%) as white solid, which was used in the next step without further purification. MS m/e: 250 (M+H+)

reactant | trans-4-(6-methyl-pyridin-2-yloxy)-cyclohexanecarboxylic acid methyl ester | 2.5 mmol, 0.62 g | COC(=O)[C@@H]1CC[C@H](CC1)OC1=NC(=CC=C1)C | C14H19NO3
reactant | hydrazine hydrate | 11 mmol, 0.55 ml | O.NN
solvent | n-butanol | 1 ml | C(CCC)O | C4H10O
product | trans-4-(6-Methyl-pyridin-2-yloxy)-cyclohexanecarboxylic acid hydrazide | 0.48 g, 86% | CC1=CC=CC(=N1)O[C@@H]1CC[C@H](CC1)C(=O)NN | C13H19N3O2
